US04672129
5-Chloro-2-[2-[(2-hydroxyethyl)amino]ethyl]-7-[(2,4,6-trimethylphenyl)methoxy]anthra[1,9-cd]pyrazol-6(2H)-one (13)
A mechanically stirred mixture of 310 g (0.73 mol) of 1,4-dichloro-5-[(2,4,6-trimethylphenyl)methoxy]-9,10-anthracenedione, 260 g (2.19 mol) of 2-[(2-hydrazinoethyl)amino]ethanol, 381 ml (2.19 mol) of N,N-diisopropylethylamine, and 4.8 l of acetonitrile was heated at reflux for 22 hr. The cooled mixture was concentrated in vacuo to leave a residue, showing a ~1:4 ratio of 12:13, that was triturated with water. The solids were collected by filtration, washed with methanol, and dried at 220 mm/50° C./18 hr to leave 237 g (66%) of crude 13, mp 147°-158° C.

reactant | 1,4-dichloro-5-[(2,4,6-trimethylphenyl)methoxy]-9,10-anthracenedione | 0.73 mol, 310 g | ClC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)OCC1=C(C=C(C=C1C)C)C)=O)Cl | C24H18Cl2O3
reactant | 2-[(2-hydrazinoethyl)amino]ethanol | 2.19 mol, 260 g | N(N)CCNCCO | C4H13N3O
reactant | N,N-diisopropylethylamine | 2.19 mol, 381 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 4.8 l | C(C)#N | C2H3N
product | 5-Chloro-2-[2-[(2-hydroxyethyl)amino]ethyl]-7-[(2,4,6-trimethylphenyl)methoxy]anthra[1,9-cd]pyrazol-6(2H)-one | ClC=1C=CC=2N(N=C3C2C1C(C1=C(C=CC=C13)OCC1=C(C=C(C=C1C)C)C)=O)CCNCCO | C28H28ClN3O3
